US04769472
(3-Bromothien-2-yl) (4-methoxyphenyl)methanone
A solution of phenyllithium (67 ml, 1.65M in ether/benzene) was added dropwise to a solution of 16.3 g of 3-bromothiophene in 100 ml of dry ether at room temperature under nitrogen. After the addition, the solution was stirred overnight under nitrogen. The resultant solution was then added dropwise to a solution of p-methoxybenzoyl chloride (20.5 g) in 80 ml of tetrahydrofuran at -70° C. over two hours and stirring was further continued for two hours at the same temperature. The reaction was then quenched with water, the organics were extracted into ether, and the ether phase was washed with 10% aqueous sodium hydroxide solution and water and dried over anhydrous magnesium sulfate. Upon evaporation of the solvent, oily liquid was obtained which was chromatographed by high performance liquid chromatography with 5% ethyl acetate/hexane used as an eluent. Appropriate fractions were combined and evaporated to give crystals which were recrystallized from ether/hexane (yield 11.9 g).

reactant | phenyllithium | 1.65M, 67 ml | C1(=CC=CC=C1)[Li]
reactant | 3-bromothiophene | 16.3 g | BrC1=CSC=C1 | C4H3BrS
reactant | p-methoxybenzoyl chloride | 20.5 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (3-Bromothien-2-yl) (4-methoxyphenyl)methanone | BrC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H9BrO2S
